US07179823B1
A mixture of 1-iodo-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propane (1.75 g), sodium cyanide (291 mg), and dimethyl sulfoxide (5 ml) was stirred at 60° C. for 2 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and 4-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]butyronitrile (1.34 g, yield: 92%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio).

reactant | 1-iodo-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]propane | 1.75 g | ICCCC=1C(=NN(C1)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)C1=CC=CC=C1 | C30H28IN3O2
reactant | sodium cyanide | 291 mg | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-phenyl-1H-pyrazol-4-yl]butyronitrile | 1.34 g, yield: 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCCC#N)C2=CC=CC=C2)C=C1 | C31H28N4O2
